US05120748
4-[[3-(3,6-Dihydro-4-phenyl-1(2H)-pyridinyl)-propy l]thio]pyridine;
1,2,3,6-Tetrahydro-4-phenyl-1-[4-(4-pyridinyl-thio)butyl]pyridine and 1,2,3,6 tetrahydro-1-[4-(4-pyridinylthio)butyl]-4-(2 thienyl)pyridine, dihydrochloride; or a pharmaceutically acceptable acid addition salt thereof.

reactant | 1,2,3,6-Tetrahydro-4-phenyl-1-[4-(4-pyridinyl-thio)butyl]pyridine | C1(=CC=CC=C1)C=1CCN(CC1)CCCCSC1=CC=NC=C1 | C20H24N2S
reactant | 1,2,3,6 tetrahydro-1-[4-(4-pyridinylthio)butyl]-4-(2 thienyl)pyridine, dihydrochloride | Cl.Cl.N1=CC=C(C=C1)SCCCCN1CCC(=CC1)C=1SC=CC1
product | 4-[[3-(3,6-Dihydro-4-phenyl-1(2H)-pyridinyl)-propy l]thio]pyridine | C1(=CC=CC=C1)C=1CCN(CC1)CCCSC1=CC=NC=C1 | C19H22N2S
